US05776963
4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propoxy]phenyl methyl ether
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (4.4 g, 20 mmol) and 2, epoxypropyl-4-methoxyphenyl ether (3.7 g, 20.5 mmol) in isopropyl alcohol (80 ml) was heated to reflux for 2 hours. The mixture was cooled and the crystals were collected to yield 6.81 g (85%), m.p.=134-135° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 20 mmol, 4.4 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | epoxypropyl-4-methoxyphenyl ether | 20.5 mmol, 3.7 g | O1C=2C(=C(C=C1C2OC)OC2=C(C1=C(C(=C2)O1)OC)CCC)CCC | C20H22O5
reactant | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | 4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propoxy]phenyl methyl ether | COC1=CC=C(C=C1)OCC(CN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)O | C22H25FN2O4
